US06329381B1
6-Amino-9-benzyl-2-benzylaminopurine
6-Amino-9-benzyl-2-chloropurine (200 mg, 0.77 mmol) and benzylamine (825 mg, 7.70 mmol) in 1-butanol (10 ml) were refluxed on heating for 8 hours. The reaction mixture was condensed in vacuo. To the residue was added 5N aqueous sodium hydroxide and the solution was extracted with chloroform. The organic layer was dried on sodium sulfate, filtered and the solvent in the filtrate was evaporated in vacuo. The residue was purified with silica gel chromatography (2% methanol/chloroform) to give the subject compound (171 mg, yield 67%).

reactant | 6-Amino-9-benzyl-2-chloropurine | 0.77 mmol, 200 mg | NC1=C2N=CN(C2=NC(=N1)Cl)CC1=CC=CC=C1 | C12H10ClN5
reactant | benzylamine | 7.70 mmol, 825 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | 1-butanol | 10 ml | C(CCC)O | C4H10O
product | 6-Amino-9-benzyl-2-benzylaminopurine | 171 mg, yield 67% | NC1=C2N=CN(C2=NC(=N1)NCC1=CC=CC=C1)CC1=CC=CC=C1 | C19H18N6
